US09227975B2
A reaction vial was charged with (R)-6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-amine (Preparation B; 30 mg, 0.095 mmol), 4-(methylsulfonamido)benzoic acid (41 mg, 0.19 mmol), and 2(1H-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uranium hexafluorophophate methanaminium (HATU; 72 mg, 0.19 mmol). DMF (0.8 mL) was added to the mixture to make a solution. The reaction mixture was cooled in an ice bath for 10 minutes before DIEA (0.05 mL, 0.29 mmol) was added dropwise. After addition, reaction was warmed to ambient temperature and stirred overnight. The reaction mixture was diluted with EtOAc (20 mL), washed with water and brine (10 mL each), and concentrated. The crude material was purified by reverse-phase column chromatography, eluting with 5 to 60% acetonitrile/water to yield (R)—N-(6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)-4-(methylsulfonamido)benzamide as a yellowish solid (13 mg, 27% yield). MS (apci negative) m/z=511.4 (M−H).

reactant | (R)-6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-amine | 0.095 mmol, 30 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)N | C16H15F2N5
reactant | 4-(methylsulfonamido)benzoic acid | 0.19 mmol, 41 mg | CS(=O)(=O)NC1=CC=C(C(=O)O)C=C1 | C8H9NO4S
reactant | DMF | 0.8 mL | CN(C)C=O | C3H7NO
reactant | DIEA | 0.29 mmol, 0.05 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | (R)—N-(6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)-4-(methylsulfonamido)benzamide | 13 mg, 27% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)NC(C2=CC=C(C=C2)NS(=O)(=O)C)=O | C24H22F2N6O3S
